2144-01-08 06:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shortness of breath
   24 Hour Events:
   - No new events since admission
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-8**] 03:00 AM
   Vancomycin - [**2144-1-8**] 04:46 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-8**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 83 (83 - 100) bpm
   BP: 101/58(67) {101/58(67) - 122/72(105)} mmHg
   RR: 23 (22 - 24) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 166 Inch
             Total In:
             410 mL
   PO:
             TF:
   IVF:
   410 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,625 mL
   Urine:
   1,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,215 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///33/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: PERRL EOMI
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Crackles bilateral bases
   CV: RRR no murmurs
   Abdomen: Soft, NT around surgical incision site, ND, +BS; surgical
   midline incision clean, wound dry, intact with overlying steri-strip.
   Inferior incision with serosanguinous drainage with overlying clean,
   sterile dressing, no rebound, no guarding
   GU: Foley in place
   Ext: Warm, well perfused; 2+ DP pulses, 2+ bilateral lower extremity
   pitting edema
   Neuro: AOx3, CN II-XII grossly intact
   Labs / Radiology
   710 K/uL
   9.5 g/dL
   118 mg/dL
   1.1 mg/dL
   33 mEq/L
   3.5 mEq/L
   13 mg/dL
   101 mEq/L
   141 mEq/L
   29.1 %
   15.3 K/uL
        [image002.jpg]
                             [**2144-1-8**]  04:45 AM
   WBC
   15.3
   Hct
   29.1
   Plt
   710
   Cr
   1.1
   Glucose
   118
   Other labs: PT / PTT / INR:23.0/150.0/2.2, Ca++:7.7 mg/dL, Mg++:1.3
   mg/dL, PO4:3.4 mg/dL
   CXR: Unread
   Culture: MRSA screen, Urine pending
   Assessment and Plan
   41 year old male with a history of HTN, DM, b/l PE, pulm HTN, dCHF who
   was initially admitted to OSH for strangulated hernia.  OSH course
   complicated by difficulty weaning from vent as well as atrial flutter
   with RVR now s/p cardioversion.  Patient transfer to [**Hospital1 **] for further
   work up of SOB.
   .
   # SOB:  Patient with multiple reasons to be short of breath including
   but not limited to pulmonary HTN, PE, volume overload, dCHF, COPD or
   pneumonia.  In the setting of a recent surgery, likely volume
   overload.  Edematous on exam (not baseline per patient), reports takes
   80mg PO lasix at home but has only received 20mg PO lasix post-op.
   Patient also with fever, WBC elevation and questionable infiltrate on
   CXR making pneumonia a concern. PE less likely (adequately
   anticoagulated). COPD less likely (history unclear, ABG not
   supportive). On right heart catheterization [**7-/2143**] to close a patent
   PFO, patient was noted to have a RVEDP of 16mmHg and pulmonary artery
   pressures of 65/30 and 47 (s/d/m).  He was started on sildenafil at OSH
   although he has yet to follow up with a pulmonologist.
   - Continue IV lasix 80mg [**Hospital1 **], goal -2L qd; consider gtt if unable to
   tolerate [**2-4**] BPs
   - F/u final read of CXR
   - Continue empiric coverage vanc/zosyn for HAP
   - Follow up culture data
   - Obtain blood culture x2
   - Continue high flow oxygen overnight; consider BiPAP, ABG if
   desaturation
   - Consider CTA if not improving with diuresis
   - Upload OSH images
   - Continue sildenafil
   - Obtain echo cardiogram to assess for worsening pulmonary HTN once
   diuresed
   .
   # Pulmonary HTN: New diagnosis.  Question if secondary to chronic PEs
   of unknown origin vs idiopathic.  Patient was noted to have pulmonary
   HTN on right heart cath that was done for PFO closure.  Currently on
   sildenafil for treatment and has not yet been seen by pulmonologist as
   outpatient.  It is a potential etiology of patient
s SOB.
   - Continue sildenafil
   - Continue SOB treatment per above
   - Needs outpatient pulmonology f/u
   - Obtain echo cardiogram to assess for worsening pulmonary HTN once
   diuresed
   .
   # Chronic PEs: Unclear etiology, questionable secondary to stasis with
   pulmonary HTN.  Patient was supposed to have hypercoagulable work up in
   past.  No evidence of new clots since his PFO closed.  Currently
   patient remains on hep gtt and plavix.  Per medical records, he had a
   clot while on therapeutic dose of coumadin and so presumably plavix was
   added.
   - Continue anticoagulation with hep gtt and plavix
   - Upload OSH images
   - Consider CTA if not improving with diuresis
   .
   # Fever/leukocytosis: Likely [**2-4**] infection. Questionable infiltrate on
   CXR; also s/p abdominal recent surgery. At this time treating broadly
   for infection and covering for HAP given desats and possible infiltrate
   on CXR.
   - F/u final read of CXR
   - F/u culture data
   - Consider CT abdomen if leukocytosis not resolving
   - Serial abdominal exam
   - Continue empiric coverage vanc/zosyn for HAP
   .
   # Elevated ALT: [**Month (only) 11**] represent viral hepatitis although in the setting
   of volume overload likely is mild congestive hepatopathy.
   - Trend ALT
   - Consider checking hepatitis serologies if not improving
   .
   # Anemia: 29.1 from 40.3 last [**Month (only) 93**]. Likely related to prolonged
   hospital stay and recent surgery.  Given anticoagulation GI bleed
   certainly a concern.
   - Guaiac all stools
   - Trend hct
   - Consider transfuse for goal hct > 21 or unstable
   .
   # Diabetes: Insulin SS for now.  Can change to outpatient regimen when
   closer to discharge.
   .
   # Med rec: Unclear why patient is on digoxin.  Presumably rate control
   with sotalol for rhythm control in a-flutter or possible also treatment
   of pulmonary HTN.  Unclear if patient will need these medications in
   the long term as flutter occurred in the peri-op setting.
   .
   # h/o a-flutter: s/p cardioversion. Continue sotalol and digoxin as
   patient currently stable.  Question continued need for digoxin at this
   time given fact that he is in sinus.  Will ultimately need a
   cardiologist to follow up with re: sotalol.  Patient being
   anticoagulated for other reasons already.
   .
   # Strangulated bowel: s/p surgery.  Continue to monitor BMs.  Daily
   dressing changes.
   - Continue to follow
   - Serial abdominal exam
   .
   # GERD: continue PPI
   .
   # Hyperlipidemia: Hold Zocor acutely, can restart when closer to
   discharge.
   .
   # FEN: No IVF, replete electrolytes, regular diabetic diet
   # Prophylaxis: hep gtt
   # Access: Peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-1-8**] 01:40 AM
   22 Gauge - [**2144-1-8**] 01:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-01-09 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2144-1-8**] 02:46 PM
   - Arterial line placed
   - PICC team will not place PICC at this time given fever.
   - Lasix 80mg IV in AM, I/O
   - PM Lytes: stable repleted K (also repleted this AM)
   - HIV Consent Signed - Pending
   - Dig Level - 0.2
   - ECHO with bubbles: No atrial septal defect or patent foramen ovale
   seen; mild symmetric left ventricular hypertrophy; left ventricular
   systolic function is hyperdynamic (EF>75%); right ventricular cavity is
   dilated with borderline depressed free wall motion; severe pulmonary
   artery systolic hypertension
   - Overnight axillary temp to 100.9, blood cultures sent.
   - Sats low 90s, high 80s overnight. Increased sats when encourage pt to
   take deep breaths. No complaints of feeling short of breath. ABG stable
   from admission.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-1-8**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-8**] 11:35 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2144-1-8**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-9**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.1
C (98.7
   HR: 75 (66 - 97) bpm
   BP: 104/56(70) {79/43(54) - 115/59(75)} mmHg
   RR: 25 (19 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,091 mL
                                                                    130 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,671 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  5,120 mL
                                                                    218 mL
   Urine:
                                                                  4,720 mL
                                                                    218 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,029 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: 7.50/46/83/32/10 (previous: 7/51/43/68/36)
   PaO2 / FiO2: 87
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: PERRL EOMI
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Rales bilateral [**2-5**]
   CV: RRR no murmurs, S1, S2 with wide split
   Abdomen: Soft, NT around surgical incision site, ND, +BS; surgical
   midline incision clean, wound dry, intact with overlying steri-strip.
   Inferior incision with serosanguinous drainage with overlying clean,
   sterile dressing, no rebound, no guarding
   GU: Foley in place
   Ext: Warm, well perfused; 2+ DP pulses, 2+ bilateral lower extremity
   pitting edema
   Neuro: AOx3, CN II-XII grossly intact
   Labs / Radiology
   900 K/uL
   8.7 g/dL
   114 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.4 mEq/L
   16 mg/dL
   98 mEq/L
   138 mEq/L
   27.5 %
   11.1 K/uL
        [image002.jpg]
                             [**2144-1-8**]  04:45 AM
                             [**2144-1-8**]  03:51 PM
                             [**2144-1-8**]  07:05 PM
                             [**2144-1-9**]  03:56 AM
   WBC
   15.3
   11.1
   Hct
   29.1
   27.5
   Plt
   710
   900
   Cr
   1.1
   1.0
   1.1
   TCO2
   36
   37
   Glucose
   118
   114
   114
   Other labs: PT / PTT / INR:21.5/78.9/2.0, ALT / AST:98/27, Alk Phos / T
   Bili:47/1.0, LDH:182 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   [**1-9**] Blood cultures
 Pending
   [**1-8**] Sputum culture
 Final; invalid specimen
   [**1-8**] MRSA screen
 Pending
   [**1-8**] Urine
 Pending; no growth to date
   [**1-8**] Echo
 The left atrium is elongated. A septal occluder device is
   seen across the interatrial septum. No atrial septal defect or patent
   foramen ovale is seen by 2D, color Doppler or saline contrast with
   maneuvers. There is mild symmetric left ventricular hypertrophy. The
   left ventricular cavity size is normal. Left ventricular systolic
   function is hyperdynamic (EF>75%). The right ventricular cavity is
   dilated with borderline depressed free wall motion. The aortic valve
   leaflets (3) appear structurally normal with good leaflet excursion and
   no aortic regurgitation. The mitral valve leaflets are mildly
   thickened. Trivial mitral regurgitation is seen. The tricuspid valve
   leaflets are mildly thickened. There is severe pulmonary artery
   systolic hypertension. There is no pericardial effusion.
   [**1-7**] CXR
 Final; Small left pleural effusion may be present
   Assessment and Plan
   41 year old male with a history of PFO repair, recurrent PEs, pulmonary
   HTN, dCHF POD #14 strangulated hernia repair slow vent wean with
   ongoing hypoxemia and episode of atrial flutter with RVR resolved s/p
   cardioversion currently with ongoing hypoxemic episodes.
   .
   # Hypoexemia/SOB: [**Month (only) 11**] likely be [**2-4**] volume overload s/p surgery
   consistent with exam and not taking home dose lasix post-op. [**Month (only) 11**] also
   be [**2-4**] nosocomial pneumonia, VAP as patient also with low-grade fever,
   leukocytosis, questionable infiltrate on CXR with hx productive cough.
   Also may be related with severe pulmonary HTN, dCHF (bNP 3000s). New PE
   less likely (adequately anticoagulated). Likely related with a
   combination of the above.
   - Start lasix gtt today (-3L with IV lasix 80mg yesterday with low BPs)
   - Start IV diamox 500mg
   - Check PM electrolytes; replete with KCl prn
   - Repeat CXR
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   - Continue sildenafil/heparin gtt for pulmonary hypertension
   - Continue to follow up culture data
   - Continue high flow oxygen with plans for BiPAP, ABG if desaturation
   or intubation
   - Consider CTA once able to tolerate prone position; if obtain,
   consider CTA of torso to also image abdomen)
   - Will need PICC line for access after resolution of fevers
   .
   # Pulmonary HTN: Severe, likely worsening from prior (diagnosed when
   right heart cath done for PFO closure). Unifying diagnosis unclear
   given PFO, craniofacial facies, hypercoagulability, developmental
   delay.
   - Continue sildenafil/heparin gtt/digoxin for pulmonary hypertension
   - Continue to monitor digoxin level ([**1-8**] digoxin level 0.2)
   - Consider PAC with vasodilator trial if no improvement
   .
   # Chronic PEs: Unclear etiology, questionable secondary to stasis with
   pulmonary HTN. Plavix was added to regimen as he presumably had clot
   while on therapeutic dose of coumadin.
    Patient was supposed to have hypercoagulable work up in past.  No
   evidence of new clots since his PFO closed.  Currently patient remains
   on hep gtt and plavix.  Per medical records, he had a clot while on
   therapeutic dose of coumadin and so presumably plavix was added.
   - Continue anticoagulation with heparin gtt and plavix
   - Consider CTA once able to tolerate prone position; if obtain,
   consider CTA of torso to also image abdomen)
   .
   # Fever/leukocytosis: Likely [**2-4**] infection with source likely to be
   pulmonary. Abdominal exam s/p surgery unremarkable.
   - Will need repeat sputum culture
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   - Follow up culture data
   - Consider CTA once able to tolerate prone position; if obtain,
   consider CTA of torso to also image abdomen)
   - Follow up HIV status (consent obtained and sent [**1-8**])
   - Continue serial abdominal exams
   .
   # Hypokalemia: Will need to be aggressively managed. K goal of 4.5.
   - Check PM electrolytes; replete with KCl prn
   .
   # Elevated ALT: Downtrending, 98 today from 163. [**Month (only) 11**] represent viral
   hepatitis although in the setting of volume overload likely is mild
   congestive hepatopathy. Unlikely to need checking hepatitis serologies
   given improvement.
   - Continue to trend ALT
   .
   # Anemia: 27.5 down from 29.1 yesterday, (40.3 last [**Month (only) 93**]). Likely
   related to prolonged hospital stay and recent surgery with
   serosanguinous leak from wound.  Given anticoagulation, consider GI
   bleed.
   - Continue to guaiac all stools
   - Continue to trend Hct
   - Consider transfuse for goal Hct > 21 or unstable
   .
   # h/o strangulated bowel: s/p surgery.  Continue to monitor BMs.
   - Continue daily dressing changes
   - Continue serial abdominal exams
   .
   # h/o a-flutter s/p cardioversion. Continue sotalol and digoxin as
   patient currently stable.  Question continued need for digoxin at this
   time given fact that he is in sinus.  Will ultimately need a
   cardiologist to follow up with re: sotalol.  Patient being
   anticoagulated for other reasons already.
   - Continue to check digoxin level
   .
   # Diabetes: Continue ISS with change to outpatient regimen when closer
   to discharge.
   .
   # GERD: Continue PPI.
   .
   # Hyperlipidemia: Hold Zocor acutely, can restart when closer to
   discharge.
   .
   # Dysmorphic facies: Interesting to see if there is a unifying genetic
   diagnosis underlying patient
s clinical presentation/appearance. Will
   attempt to curbside geneticist.
   .
   # FEN: No IVF, replete electrolytes aggressively as on digoxin, sotalol
   and lasix gtt, regular diabetic diet
   # Prophylaxis: hep gtt, famotidine, bowel regimen with miralax today
   # Access: Peripherals; Needs PICC line placement
 will try for today
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2144-1-8**] 01:40 AM
   20 Gauge - [**2144-1-8**] 12:12 PM
   Arterial Line - [**2144-1-8**] 02:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-01-10 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Difficulty getting comfortable (including some scrotal discomfort)
   had Tylenol and Ativan last night then slept
   - Dr. [**Last Name (STitle) 10291**] returned email - genetic work-up only reimbursed as
   outpatient, except for karyotype, which she would recommend (she is on
   holidays and cannot see him).
   - Lasix drip down to 2 mg/hr
   - Bicarb down [**2-4**] Diamox yesterday (500 mg once; 37 on ABG yesterday AM
   currently 32)
   - Crackles at bases now (improved)
   - K and Mg a little low in morning labs
 repleted with KCl and Mag
   sulfate this AM
   - Saturation still somewhat variable, but good on mask
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-1-9**] 07:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-10**] 12:29 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2144-1-9**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-10**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.2
   HR: 73 (69 - 93) bpm
   BP: 97/54(64) {97/54(64) - 102/56(66)} mmHg
   RR: 17 (17 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,898 mL
                                                                    252 mL
   PO:
                                                                    690 mL
             TF:
   IVF:
                                                                  1,208 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  3,348 mL
                                                                    650 mL
   Urine:
                                                                  3,348 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,450 mL
                                                                   -398 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.48/42/75/31/6
   PaO2 / FiO2: 125
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: PERRL EOMI
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Rales bilateral [**2-5**]
   CV: RRR no murmurs, S1, S2 with wide split
   Abdomen: Soft, NT around surgical incision site, ND, +BS; surgical
   midline incision clean, wound dry, intact with overlying steri-strip.
   Inferior incision with serosanguinous drainage with overlying clean,
   sterile dressing, no rebound, no guarding
   GU: Foley in place
   Ext: Warm, well perfused; 2+ DP pulses, 2+ bilateral lower extremity
   pitting edema
   Neuro: AOx3, CN II-XII grossly intact
   Labs / Radiology
   910 K/uL
   9.1 g/dL
   163 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.8 mEq/L
   18 mg/dL
   100 mEq/L
   136 mEq/L
   28.5 %
   13.9 K/uL
        [image002.jpg]
                             [**2144-1-8**]  04:45 AM
                             [**2144-1-8**]  03:51 PM
                             [**2144-1-8**]  07:05 PM
                             [**2144-1-9**]  03:56 AM
                             [**2144-1-9**]  10:47 AM
                             [**2144-1-9**]  02:56 PM
                             [**2144-1-9**]  03:24 PM
                             [**2144-1-9**]  06:00 PM
                             [**2144-1-10**]  03:07 AM
                             [**2144-1-10**]  03:33 AM
   WBC
   15.3
   11.1
   13.9
   Hct
   29.1
   27.5
   28.5
   Plt
   [**Telephone/Fax (3) 10292**]
   Cr
   1.1
   1.0
   1.1
   1.1
   1.3
   TCO2
   36
   37
   37
   36
   34
   32
   Glucose
   118
   114
   114
   216
   163
   Other labs: PT / PTT / INR:19.9/70.3/1.8, ALT / AST:75/20, Alk Phos / T
   Bili:45/0.9, Differential-Neuts:70.5 %, Lymph:19.2 %, Mono:5.2 %,
   Eos:4.7 %, LDH:174 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Vanc trough: 22.4
   [**2144-1-10**] CXR
 Final read pending; not yet performed
   [**2144-1-9**] Blood culture
 Pending; no growth to date
   [**2144-1-9**] Sputum culture
 Final; contaminated
   Assessment and Plan
   41 year old male with a history of PFO repair, recurrent PEs, pulmonary
   HTN, dCHF POD #15 strangulated hernia repair slow vent wean with
   improving hypoxemia and volume overload.
   .
   # Hypoexemia/SOB: [**Month (only) 11**] likely be [**2-4**] volume overload s/p surgery
   consistent with exam and not taking home dose lasix post-op. [**Month (only) 11**] also
   be [**2-4**] nosocomial pneumonia, VAP as patient also with low-grade fever,
   leukocytosis, questionable infiltrate on CXR with hx productive cough.
   Also may be related with severe pulmonary HTN, dCHF (bNP 3000s). New PE
   less likely (adequately anticoagulated). Likely related with a
   combination of the above.
   - Continue lasix gtt today with goal -1.5 to -2L
   - Continue IV diamox 500mg x1 in AM
   - Check PM electrolytes; replete prn with goal to keep K > 4.5
   (aggressive KCl repletion given metabolic alkalosis)
   - Follow up AM CXR; order CXR tomorrow AM
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   (currently day 3)
   - Re-obtain sputum culture [**2-4**] to contamination x 2
   - Continue sildenafil/heparin gtt for pulmonary hypertension
   - Continue to follow up culture data
   - Continue high flow oxygen with plans for BiPAP, ABG if desaturation
   or intubation
   - Less likely to obtain CTA once able to tolerate prone position; if
   obtain, consider CTA of torso to also image abdomen)
   - Will need PICC line for access after resolution of fevers
   .
   # Pulmonary HTN: Stable, severe. Unifying diagnosis unclear given PFO,
   craniofacial facies, hypercoagulability, developmental delay.
   Appreciate recs from Dr. [**Last Name (STitle) 10291**].
   - Continue sildenafil/heparin gtt/digoxin for pulmonary hypertension
   - Continue to monitor digoxin level ([**1-8**] digoxin level 0.2, [**1-10**] digoxin
   level 0.5)
   - Consider PAC with vasodilator trial if no improvement
   - Obtain genetic karyotype and needs follow up as outpatient
   .
   # Chronic PEs: Unclear etiology, questionable secondary to stasis with
   pulmonary HTN. Plavix was added to regimen as he presumably had clot
   while on therapeutic dose of coumadin.  Patient was supposed to have
   hypercoagulable work up in past.  No evidence of new clots since his
   PFO closed.  Currently patient remains on hep gtt and plavix.
   - Continue anticoagulation with heparin gtt and plavix
   - Less likely to obtain CTA once able to tolerate prone position; if
   obtain, consider CTA of torso to also image abdomen)
   .
   # Fever/leukocytosis: Likely [**2-4**] infection with source likely to be
   pulmonary. Abdominal exam s/p surgery unremarkable.
   - Will need repeat sputum culture
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   - Follow up culture data
   - Consider CTA once able to tolerate prone position; if obtain,
   consider CTA of torso to also image abdomen)
   - Follow up HIV status (consent obtained and sent [**1-8**])
   - Continue serial abdominal exams
   .
   # Hypokalemia: Will need to be aggressively managed. K goal of 4.5.
   - Check PM electrolytes; replete prn with goal to keep K > 4.5
   (aggressive KCl repletion given metabolic alkalosis)
   .
   # Elevated ALT: Downtrending, 98 today from 163. [**Month (only) 11**] represent viral
   hepatitis although in the setting of volume overload likely is mild
   congestive hepatopathy. Unlikely to need checking hepatitis serologies
   given improvement.
   - Continue to trend ALT
   .
   # Anemia: 27.5 down from 29.1 yesterday, (40.3 last [**Month (only) 93**]). Likely
   related to prolonged hospital stay and recent surgery with
   serosanguinous leak from wound.  Given anticoagulation, consider GI
   bleed.
   - Continue to guaiac all stools
   - Continue to trend Hct
   - Consider transfuse for goal Hct > 21 or unstable
   .
   # Thrombocytosis: Stable; likely reactive [**2-4**] splenectomy.
   - Continue to trend
   .
   # h/o strangulated bowel: s/p surgery.  Continue to monitor BMs.
   - Continue daily dressing changes
   - Continue serial abdominal exams
   - Obtain surgical consultation if becomes unstable; otherwise needs
   keep outpatient surgical follow up
   .
   # h/o a-flutter s/p cardioversion. Continue sotalol and digoxin as
   patient currently stable.  Question continued need for digoxin at this
   time given fact that he is in sinus.  Will ultimately need a
   cardiologist to follow up with re: sotalol.  Patient being
   anticoagulated for other reasons already.
   - Continue to monitor digoxin level ([**1-8**] digoxin level 0.2, [**1-10**] digoxin
   level 0.5)
   .
   # Diabetes: Continue ISS with change to outpatient regimen when closer
   to discharge.
   .
   # GERD: Continue PPI.
   .
   # Hyperlipidemia: Hold Zocor acutely, can restart when closer to
   discharge.
   .
   # FEN: No IVF, replete electrolytes aggressively as on digoxin, sotalol
   and lasix gtt, regular diabetic diet
   # Prophylaxis: hep gtt, famotidine, bowel regimen with miralax prn
   constipation
   # Access: Peripherals; Needs PICC line placement after resolution of
   fevers
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2144-1-8**] 01:40 AM
   20 Gauge - [**2144-1-8**] 12:12 PM
   Arterial Line - [**2144-1-8**] 02:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-01-11 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Dyspnea
   24 Hour Events:
   - Spoke with patient's father at [**Telephone/Fax (1) 10318**] (work number) to update
   him regarding care and also to ask about family meeting; him and his
   wife will plan to come in at an unspecified time tomorrow afternoon.
   Their home phone number is [**Telephone/Fax (1) 10319**].
   - Morning ABG stable: 7.43/48/118/33
   - CT chest w/o contrast from [**Hospital3 91**] Hospital uploaded for
   reference
   - Spoke with covering staff for Dr. [**Last Name (STitle) 10320**], patient's listed PCP but
   unable to find any records regarding pulmonology
   - Faxed request of information to obtain records from PCP but have not
   yet received reply
   - 1700 Cr stable at 1.3; continue lasix at 1mg/hr
   - Patient with abdominal pain which he says is identical in character
   to pain he has had since after surgery; abdominal exam unchanged;
   patient written for morphine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-1-10**] 09:47 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-10**] 11:32 PM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-11**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.5
   HR: 79 (59 - 79) bpm
   BP: 118/58(75) {100/48(65) - 135/72(89)} mmHg
   RR: 27 (20 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.5 kg (admission): 97 kg
   Height: 66 Inch
             Total In:
                                                                  1,764 mL
                                                                    155 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  1,064 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  2,055 mL
                                                                    300 mL
   Urine:
                                                                  2,055 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -291 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.43/44/74/27/3
   PaO2 / FiO2: 123
   Physical Examination
   General: Alert, oriented, no acute distress; appears more fatigued than
   yesterday
   HEENT: PERRL EOMI
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Rales improved in bases, occasional wheezes
   CV: RRR no murmurs, S1, S2 with wide split
   Abdomen: Soft, NT around surgical incision site, ND, +BS; surgical
   midline incision clean, wound dry, intact with overlying steri-strip.
   Inferior incision with serosanguinous drainage with overlying clean,
   sterile dressing, no rebound, no guarding
   GU: Foley in place
   Ext: Warm, well perfused; 2+ DP pulses; edema looks improved, 1+
   bilaterally
   Neuro: AOx3, CN II-XII grossly intact
   Labs / Radiology
   998 K/uL
   9.4 g/dL
   129 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.3 mEq/L
   20 mg/dL
   101 mEq/L
   134 mEq/L
   30.2 %
   13.0 K/uL
        [image002.jpg]
                             [**2144-1-9**]  10:47 AM
                             [**2144-1-9**]  02:56 PM
                             [**2144-1-9**]  03:24 PM
                             [**2144-1-9**]  06:00 PM
                             [**2144-1-10**]  03:07 AM
                             [**2144-1-10**]  03:33 AM
                             [**2144-1-10**]  11:23 AM
                             [**2144-1-10**]  04:50 PM
                             [**2144-1-10**]  04:55 PM
                             [**2144-1-11**]  05:00 AM
   WBC
   13.9
   13.0
   Hct
   28.5
   30.2
   Plt
   910
   998
   Cr
   1.1
   1.3
   1.3
   1.3
   TCO2
   37
   36
   34
   32
   33
   30
   Glucose
   [**Telephone/Fax (3) 10321**]29
   Other labs: PT / PTT / INR:19.9/70.3/1.8, ALT / AST:58/22, Alk Phos / T
   Bili:45/0.9, Differential-Neuts:70.5 %, Lymph:19.2 %, Mono:5.2 %,
   Eos:4.7 %, LDH:174 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR: Increased moderate infrahilar opacifications and mild
   bilateral
   vascular engorgement. These findings could be due to atelectasis and
   pneumonia, but pulmonary edema cannot be excluded.
   Microbiology: Blood: Pending
   Assessment and Plan
   41 year old male with a history of PFO repair, recurrent PEs, pulmonary
   HTN, dCHF POD #15 strangulated hernia repair slow vent wean with
   improving hypoxemia and volume overload.
   .
   # Hypoexemia/SOB: Stable, but appears worse. [**Month (only) 11**] likely be [**2-4**] volume
   overload s/p surgery consistent with exam and not taking home dose
   lasix post-op. [**Month (only) 11**] also be [**2-4**] nosocomial pneumonia, VAP as patient
   also with low-grade fever, leukocytosis, questionable infiltrate on CXR
   with hx productive cough. Also may be related with severe pulmonary
   HTN, dCHF (bNP 3000s). New PE less likely (adequately anticoagulated).
   Likely related with a combination of the above.
   - Continue lasix gtt today with goal -1L
   - Continue IV diamox 500mg
   - Check PM electrolytes; replete prn with goal to keep K > 4.5
   (aggressive KCl repletion given metabolic alkalosis); d/c lasix if Cr
   elevates
   - Order AM CXR
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   (currently day 3)
   - Re-obtain sputum culture [**2-4**] to contamination x 2
   - Follow up cultures
   - Continue high flow oxygen with plans for BiPAP, ABG if desaturation
   or intubation
   - If worsens/ does not improve, consider CTA and CT abdomen
   - Will need PICC line for access after resolution of fevers; try for
   this PM
   - Check sed rate, [**Doctor First Name **] r/o rheumatologic diagnoses
   .
   # Pulmonary HTN: Stable, severe. Unifying diagnosis unclear given PFO,
   craniofacial facies, hypercoagulability, developmental delay.
   Appreciate recs from Dr. [**Last Name (STitle) 10291**].
   - Continue sildenafil/heparin gtt/digoxin for pulmonary hypertension
   - Continue to monitor digoxin level ([**1-8**] digoxin level 0.2, [**1-10**] digoxin
   level 0.5)
   - Consider PAC with vasodilator trial if no improvement
   - Obtain genetic karyotype and needs follow up as outpatient
   .
   # Chronic PEs: Unclear etiology, questionable secondary to stasis with
   pulmonary HTN. Plavix was added to regimen as he presumably had clot
   while on therapeutic dose of coumadin.  Patient was supposed to have
   hypercoagulable work up in past.  No evidence of new clots since his
   PFO closed.  Currently patient remains on hep gtt and plavix.
   - Continue anticoagulation with heparin gtt
   - Discontinue plavix
   - If worsens/ does not improve, consider CTA and CT abdomen
   .
   # Fever/leukocytosis: Likely [**2-4**] infection with source likely to be
   pulmonary. Abdominal exam s/p surgery unremarkable.
   - Will need repeat sputum culture
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   (currently day 3)
   - Follow up culture data
   - Follow up HIV status (consent obtained and sent [**1-8**])
   - Continue serial abdominal exams
   .
   # Hypokalemia: Will need to be aggressively managed. K goal of 4.5.
   - Check PM electrolytes; replete prn with goal to keep K > 4.5
   (aggressive KCl repletion given metabolic alkalosis)
   .
   # Elevated ALT: Downtrending, 75  today from [**Age over 90 **] yesterday. [**Month (only) 11**]
   represent viral hepatitis although in the setting of volume overload
   likely is mild congestive hepatopathy. Unlikely to need checking
   hepatitis serologies given improvement.
   - Continue to trend ALT
   .
   # Anemia: 28.5, (40.3 last [**Month (only) 93**]). Likely related to prolonged hospital
   stay and recent surgery with serosanguinous leak from wound.  Given
   anticoagulation, consider GI bleed.
   - Continue to guaiac all stools
   - Continue to trend Hct
   - Consider transfuse for goal Hct > 21 or unstable
   .
   # Thrombocytosis: Stable; likely reactive [**2-4**] splenectomy.
   - Continue to trend
   .
   # h/o strangulated bowel: s/p surgery.  Continue to monitor BMs.
   - Continue daily dressing changes
   - Continue serial abdominal exams
   - Obtain surgical consultation if becomes unstable; otherwise needs
   keep outpatient surgical follow up
   .
   # h/o a-flutter s/p cardioversion. Continue sotalol and digoxin as
   patient currently stable.  Question continued need for digoxin at this
   time given fact that he is in sinus.  Will ultimately need a
   cardiologist to follow up with re: sotalol.  Patient being
   anticoagulated for other reasons already.
   - Continue to monitor digoxin level ([**1-8**] digoxin level 0.2, [**1-10**] digoxin
   level 0.5)
   .
   # Diabetes: Continue ISS with change to outpatient regimen when closer
   to discharge.
   .
   # GERD: Continue PPI.
   .
   # Hyperlipidemia: Hold Zocor acutely, can restart when closer to
   discharge.
   .
   # FEN: No IVF, replete electrolytes aggressively as on digoxin, sotalol
   and lasix gtt, regular diabetic diet
   # Prophylaxis: hep gtt, famotidine, bowel regimen with miralax prn
   constipation
   # Access: Peripherals; Will need PICC line for access after resolution
   of fevers; try for this PM
   # Communication: Patient; Will get in touch with patient
s father
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-1-8**] 12:12 PM
   Arterial Line - [**2144-1-8**] 02:46 PM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer: famotidine
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for Now

2144-01-12 07:18:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   - Lasix gtt to 3mg/hr -> I/O -150 @[**2134**] -> increased to 5mg/hr
   - Oxygen Saturation: High 90s -100 throughout the day.
   - PICC line in place.
   - Blood Cultures: [**1-6**] Gram Positive Cocci in Clusters.
   - Vanc trough 21.9. Changed to Vanc 1gram q24hr dosing.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-1-11**] 08:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-11**] 11:53 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-12**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 64 (54 - 80) bpm
   BP: 109/57(73) {96/48(63) - 153/78(99)} mmHg
   RR: 28 (20 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.5 kg (admission): 97 kg
   Height: 66 Inch
             Total In:
                                                                  1,721 mL
                                                                    199 mL
   PO:
                                                                    760 mL
             TF:
   IVF:
                                                                    961 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                    900 mL
   Urine:
                                                                  1,835 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -114 mL
                                                                   -701 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Skin:
   Neuro:
   Motor:
   Sensation:
   DTR:
   Coordination:
   Gait:
   Labs / Radiology
   922 K/uL
   8.7 g/dL
   116 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.3 mEq/L
   21 mg/dL
   103 mEq/L
   136 mEq/L
   27.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2144-1-9**]  03:24 PM
                             [**2144-1-9**]  06:00 PM
                             [**2144-1-10**]  03:07 AM
                             [**2144-1-10**]  03:33 AM
                             [**2144-1-10**]  11:23 AM
                             [**2144-1-10**]  04:50 PM
                             [**2144-1-10**]  04:55 PM
                             [**2144-1-11**]  05:00 AM
                             [**2144-1-11**]  04:35 PM
                             [**2144-1-12**]  04:21 AM
   WBC
   13.9
   13.0
   11.9
   Hct
   28.5
   30.2
   27.9
   Plt
   [**Telephone/Fax (3) 10336**]
   Cr
   1.3
   1.3
   1.3
   1.1
   1.2
   TCO2
   36
   34
   32
   33
   30
   Glucose
   163
   195
   129
   201
   116
   Other labs: PT / PTT / INR:16.9/51.1/1.5, ALT / AST:58/22, Alk Phos / T
   Bili:45/0.9, Differential-Neuts:70.5 %, Lymph:19.2 %, Mono:5.2 %,
   Eos:4.7 %, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR :
   Microbiology: GPC in clusters in one bottle in four on [**1-9**]. No
   speciation yet.
   Assessment and Plan
   41 year old male with a history of PFO repair, recurrent PEs, pulmonary
   HTN, dCHF POD #15 strangulated hernia repair slow vent wean with
   improving hypoxemia and volume overload.
   # Hypoexemia/SOB: Multifactorial as stated below. Stable to improved
   slightly from yesterday with diuresis. [**Month (only) 11**] likely be [**2-4**] volume
   overload s/p surgery consistent with exam and not taking home dose
   lasix post-op. Further, [**2-4**] nosocomial pneumonia, VAP as patient also
   with low-grade fever, leukocytosis, questionable infiltrate on CXR with
   hx productive cough. Also may be related with severe pulmonary HTN,
   dCHF (bNP 3000s). New PE less likely (adequately anticoagulated).
   Likely related with a combination of the above.
   - Continue lasix gtt today with goal -1L
   - Continue IV diamox 500mg if alkalosis on PM lytes
   - Continue Heparin gtt.
   - Check PM electrolytes; replete prn with goal to keep K > 4.5
   (aggressive KCl repletion given metabolic alkalosis); d/c lasix if Cr
   elevates
   - Order AM CXR
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   (currently day 4)
   - Re-obtain sputum culture [**2-4**] to contamination x 2
   - Follow up cultures
   - Continue high flow oxygen with plans for BiPAP, ABG if desaturation
   or intubation
   - If worsens/ does not improve, consider CTA and CT abdomen
   - Will need PICC line for access after resolution of fevers; try for
   this PM
   - Check sed rate, [**Doctor First Name **] r/o rheumatologic diagnoses
   # Pulmonary HTN: Stable, severe. Unifying diagnosis unclear given PFO,
   craniofacial facies, hypercoagulability, developmental delay.
   Appreciate recs from Dr. [**Last Name (STitle) 10291**].
   - Continue sildenafil/heparin gtt/digoxin for pulmonary hypertension
   - Continue to monitor digoxin level ([**1-8**] digoxin level 0.2, [**1-10**] digoxin
   level 0.5)
   - Consider PAC with vasodilator trial if no improvement
   - Obtain genetic karyotype and needs follow up as outpatient
   # Chronic PEs: Unclear etiology, questionable secondary to stasis with
   pulmonary HTN. Plavix was added to regimen as he presumably had clot
   while on therapeutic dose of coumadin.  Patient was supposed to have
   hypercoagulable work up in past.  No evidence of new clots since his
   PFO closed.  Currently patient remains on hep gtt and plavix.
   - Continue anticoagulation with heparin gtt
   - plavix stopoped
   - If worsens/ does not improve, consider CTA and CT abdomen
   # Fever/leukocytosis: Likely [**2-4**] infection with source likely to be
   pulmonary. Abdominal exam s/p surgery unremarkable.
   - Will need repeat sputum culture
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   (currently day 3)
   - Follow up culture data
   - Follow up HIV status (consent obtained and sent [**1-8**])
   - Continue serial abdominal exams
   # Hypokalemia: Will need to be aggressively managed. K goal of 4.5.
   - Check PM electrolytes; replete prn with goal to keep K > 4.5
   (aggressive KCl repletion given metabolic alkalosis)
   # Anemia: 30 and stable, (40.3 last [**Month (only) 93**]). Likely related to prolonged
   hospital stay and recent surgery with serosanguinous leak from wound.
   Given anticoagulation, consider GI bleed.
   - Continue to guaiac all stools
   - Continue to trend Hct
   - Consider transfuse for goal Hct > 21 or unstable
   # Thrombocytosis: Stable; likely reactive [**2-4**] splenectomy.
   - Continue to trend
   # h/o strangulated bowel: s/p surgery.  Continue to monitor BMs.
   - Continue daily dressing changes
   - Continue serial abdominal exams
   - Obtain surgical consultation if becomes unstable; otherwise needs
   keep outpatient surgical follow up
   # h/o a-flutter s/p cardioversion. Continue sotalol and digoxin as
   patient currently stable.  Question continued need for digoxin at this
   time given fact that he is in sinus.  Will ultimately need a
   cardiologist to follow up with re: sotalol.  Patient being
   anticoagulated for other reasons already.
   - Continue to monitor digoxin level ([**1-8**] digoxin level 0.2, [**1-10**] digoxin
   level 0.5)
   # Diabetes: Continue ISS with change to outpatient regimen when closer
   to discharge.
   # GERD: Continue PPI.
   # Hyperlipidemia: Hold Zocor acutely, can restart when closer to
   discharge.
   # FEN: No IVF, replete electrolytes aggressively as on digoxin, sotalol
   and lasix gtt, regular diabetic diet
   # Prophylaxis: hep gtt, famotidine, bowel regimen with miralax prn
   constipation
   # Access: Peripherals; Will need PICC line for access after resolution
   of fevers; try for this PM
   # Communication: Patient; Will get in touch with patient
s father
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2144-1-8**] 02:46 PM
   PICC Line - [**2144-1-11**] 10:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-01-13 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2144-1-12**] 10:09 AM
   - Given continuing slow recovery, CTA performed
   - CTA final read pending
   - Lasix held given contrast load, gave NAC (restart Lasix on [**1-13**], most
   likely)
   - Face mask taken from 50% to 40% today with same sats. - gradual
   improvement
   - Nasal cannula was not quite acheived.
   - Fluid balance still net negative today despite stopping Lasix.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-1-12**] 11:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-13**] 12:39 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-13**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 67 (52 - 72) bpm
   BP: 117/57(73) {97/47(61) - 134/75(94)} mmHg
   RR: 26 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.5 kg (admission): 97 kg
   Height: 66 Inch
             Total In:
                                                                  2,139 mL
                                                                    256 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  1,059 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  3,015 mL
                                                                    470 mL
   Urine:
                                                                  3,015 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -876 mL
                                                                   -214 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented, no acute distress, on facemask. Dysmorphic in
   appearance, with malar hypoplasia, near microcephaly, straight hair,
   narrow facies with hypotelorism. Conversational.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP at base of neck, no LAD
   Lungs: Crackles at both bases, no wheeze, rales, ronchi
   CV: Regular rate and rhythm, normal S1 +loud  S2 with normal split,
   systolic ejection murmur [**4-7**], no rubs, gallops
   Abdomen: soft, non-tender, slightly distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   943 K/uL
   8.9 g/dL
   147 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.7 mEq/L
   18 mg/dL
   102 mEq/L
   136 mEq/L
   27.5 %
   12.0 K/uL
        [image002.jpg]
                             [**2144-1-9**]  06:00 PM
                             [**2144-1-10**]  03:07 AM
                             [**2144-1-10**]  03:33 AM
                             [**2144-1-10**]  11:23 AM
                             [**2144-1-10**]  04:50 PM
                             [**2144-1-10**]  04:55 PM
                             [**2144-1-11**]  05:00 AM
                             [**2144-1-11**]  04:35 PM
                             [**2144-1-12**]  04:21 AM
                             [**2144-1-13**]  03:50 AM
   WBC
   13.9
   13.0
   11.9
   12.0
   Hct
   28.5
   30.2
   27.9
   27.5
   Plt
   [**Telephone/Fax (3) 10353**]43
   Cr
   1.3
   1.3
   1.3
   1.1
   1.2
   1.0
   TCO2
   34
   32
   33
   30
   Glucose
   163
   195
   129
   [**Telephone/Fax (3) 10354**]
   Other labs: PT / PTT / INR:16.9/111.1/1.5, ALT / AST:58/22, Alk Phos /
   T Bili:45/0.9, Differential-Neuts:70.5 %, Lymph:19.2 %, Mono:5.2 %,
   Eos:4.7 %, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   [**1-13**] CXR
 Final read pending
   [**1-12**] CXR
 Volume loss in the lower right lung. No other significant
   change.
   [**1-12**] CTA
 Final read pending
   [**1-12**] Blood culture
 Pending
   [**1-9**] Blood culture x2
 Coag negative staph; isolated from one set only;
   Assessment and Plan
   41 year old male with a history of PFO repair, recurrent PEs, pulmonary
   HTN, dCHF POD #15 strangulated hernia repair slow vent wean with
   improving hypoxemia and volume overload.
   # Hypoexemia/SOB: Multifactorial as stated below. Continues to improve.
   Likely major contributors are pulmonary hypertension, pulmonary edema
   and likely infiltrate/infection. Also important to consider possible
   pulmonary emboli. [**Month (only) 11**] likely be [**2-4**] volume overload s/p surgery
   consistent with exam and not taking home dose lasix post-op. Further,
   [**2-4**] nosocomial pneumonia, VAP as patient also with low-grade fever,
   leukocytosis, questionable infiltrate on CXR with hx productive cough.
   Also may be related with severe pulmonary HTN, dCHF (bNP 3000s). New PE
   less likely (adequately anticoagulated). Likely related with a
   combination of the above.
   - CTA
   - NAC 600 mg x 4
   - Temporarily hold Lasix today after CTAContinue lasix gtt today with
   goal -1L
   - Continue Heparin gtt.
   - Check PM electrolytes; replete prn with goal to keep K > 4.5
   (aggressive KCl repletion given metabolic alkalosis); d/c lasix if Cr
   elevates
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   (currently day 5)
   - Follow up cultures
   - Continue high flow oxygen, but wean today to 40%
   # Pulmonary HTN
   Stable, severe. Unifying diagnosis unclear given PFO, craniofacial
   facies, hypercoagulability, developmental delay. Likely secondary to
   PFO
   - Continue sildenafil/heparin gtt/digoxin for pulmonary hypertension
   - Continue to monitor digoxin level
   # Genetic Syndrome
   Clear dysmorphic features and possibility of serious sequelae.
   Therefore send karyotype and on that basis determine if further
   outpatient workup is necessary.
   - Karyotype
   # Chronic PEs
   Unclear etiology, likely secondary and also exacerbating pulmonary HTN.
   Plavix was added to regimen as he presumably had clot while on
   therapeutic dose of coumadin. Patient was supposed to have
   hypercoagulable work up in past, but this may be worth revisiting
   (again as an outpatient).  No evidence of new clots since his PFO
   closed. Currently patient remains on hep gtt (plavix stopped).
   - Continue anticoagulation with heparin gtt
   # Fever/leukocytosis
   Both are improving. Likely because of antibiotic therapy. WBC now 11s
   and afebrile. Source likely pulmonary. No other findings suggestive of
   infection elsewhere.
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   (currently day 3)
   - Follow up culture data
   # Hypokalemia: Will need to be aggressively managed. K goal of 4.5.
   - Check PM electrolytes; replete prn with goal to keep K > 4.5
   (aggressive KCl repletion given metabolic alkalosis)
   # Anemia
   Near 30 and stable, (40.3 last [**Month (only) 93**]). Likely related to prolonged
   hospital stay and recent surgery with serosanguinous leak from wound.
   Now suppression likely given present infection. Given anticoagulation,
   consider GI bleed.
   - Guaiac stools again if suspicion of losses
   - Continue to trend Hct
   - Consider transfuse for goal Hct > 21 or unstable
   # Thrombocytosis: Stable; likely reactive [**2-4**] splenectomy.
   - Continue to trend
   # h/o strangulated bowel: s/p surgery.  Continue to monitor BMs.
   - Continue daily dressing changes
   - Now daily careful abdominal exams
   - Obtain surgical consultation if becomes unstable; otherwise needs
   keep outpatient surgical follow up
   # h/o a-flutter s/p cardioversion. Continue sotalol and digoxin as
   patient currently stable.  Question continued need for digoxin at this
   time given fact that he is in sinus.  Will ultimately need a
   cardiologist to follow up with re: sotalol.  Patient being
   anticoagulated for other reasons already.
   - Continue to monitor digoxin level ([**1-8**] digoxin level 0.2, [**1-10**] digoxin
   level 0.5)
   # Diabetes: Continue ISS with change to outpatient regimen when closer
   to discharge.
   # GERD: Continue PPI.
   # Hyperlipidemia: Hold Zocor acutely, can restart when closer to
   discharge.
   # FEN: No IVF, replete electrolytes aggressively as on digoxin, sotalol
   and lasix gtt, regular diabetic diet
   # Prophylaxis: hep gtt, famotidine, bowel regimen with miralax prn
   constipation
   # Access: Peripherals; Will need PICC line for access after resolution
   of fevers; try for this PM
   # Communication: Patient; Will get in touch with patient
s father
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   Events:
   Lasix gtt up to 8mg/hr.  I/O neg 100cc overnight now neg 1L
   PICC placed.
   1 / 4  GPCs in blood
 awaiting speciation.
   41 y/o with PFO (closed) recurrent PEs and pulm HTN felt d/t
   thromboembolic pulmonary hypertension, here with worsening respiratory
   status after strangulated hernia.  Seems improving with diuresis,
   antibiotics, down to 50% high flow.  D5 of vanc / zosyn.
   Continue heparin, sildenafil, digoxin.  Underlying cause of pulm HTN
   unclear; HIV neg, [**Doctor First Name **] pending, plan for outpt genetics consult.  OSH
   films are noncontrast, if can tolerate lying flat, would consider
   repeating CTA to assess for thrombi
 Cr 1.2, stable with diuresis.
   Remainder of plan as outlined above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2144-1-8**] 02:46 PM
   PICC Line - [**2144-1-11**] 10:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-01-14 07:33:00 Physician Resident Progress Note
Chief Complaint: Original presenting complaint was abdominal pain.
   Patient underwent hernioraphy. Difficult to wean from vent. and
   transferred to MICU.
   24 Hour Events:
   - Dr. [**Last Name (STitle) 242**] spoke with Dr. [**First Name4 (NamePattern1) 4652**] [**Last Name (NamePattern1) **], who recommended talking with
   Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] about right heart cath/vasodilator trial. We decided to
   wait until patient is further optimized prior to initiating discussions
   regarding this.
   - Patient lasix gtt not started until late evening, with UOP > 100
   cc/hr  in the morning
   - CTA final read: tiny filling defects in the distal subsegmental
   branches of the pulmonary arteries bilaterally consistent with chronic
   pulmonary emboli; the chronicity of this finding cannot be definitively
   ascertained due to which an acute process is not entirely excluded. 2.
   Bilateral patchy ground-glass opacities predominantly in the upper
   lobes, left greater than right, stable since [**2143-11-3**], could
   represent an inflammatory/infectious process. 3. Mediastinal
   adenopathy, stable since [**2143-11-3**]. Consideration to PET/CT should
   be given for further evaluation. 4. Increased size of main pulmonary
   artery measuring 3.7 cm consistent with pulmonary arterial
   hypertension. 5. Small hiatal hernia.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-13**] 04:00 PM
   Vancomycin - [**2144-1-13**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-14**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 64 (53 - 75) bpm
   BP: 104/55(69) {104/51(66) - 130/70(90)} mmHg
   RR: 24 (18 - 32) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.5 kg (admission): 97 kg
   Height: 66 Inch
             Total In:
                                                                  1,326 mL
                                                                    228 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,086 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    870 mL
   Urine:
                                                                  1,240 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     86 mL
                                                                   -642 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 86%
   ABG: 7.45/41/84.[**Numeric Identifier 1132**]/25/3
   PaO2 / FiO2: 140
   Physical Examination
   General: Alert, oriented, no acute distress, on facemask. Dysmorphic in
   appearance, with malar hypoplasia, near microcephaly, straight hair,
   narrow facies with hypotelorism. Conversational.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP at base of neck, no LAD
   Lungs: Crackles at both bases, no wheeze, rales, ronchi
   CV: Regular rate and rhythm, normal S1 +loud  S2 with normal split,
   systolic ejection murmur [**4-7**], no rubs, gallops
   Abdomen: soft, non-tender, slightly distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   954 K/uL
   8.5 g/dL
   146 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   103 mEq/L
   136 mEq/L
   27.6 %
   10.5 K/uL
        [image002.jpg]
                             [**2144-1-10**]  03:33 AM
                             [**2144-1-10**]  11:23 AM
                             [**2144-1-10**]  04:50 PM
                             [**2144-1-10**]  04:55 PM
                             [**2144-1-11**]  05:00 AM
                             [**2144-1-11**]  04:35 PM
                             [**2144-1-12**]  04:21 AM
                             [**2144-1-13**]  03:50 AM
                             [**2144-1-13**]  06:37 PM
                             [**2144-1-14**]  04:01 AM
   WBC
   13.0
   11.9
   12.0
   10.5
   Hct
   30.2
   27.9
   27.5
   27.6
   Plt
   998
   922
   943
   954
   Cr
   1.3
   1.3
   1.1
   1.2
   1.0
   0.9
   TCO2
   32
   33
   30
   29
   Glucose
   195
   129
   201
   116
   147
   146
   Other labs: PT / PTT / INR:15.1/59.3/1.3, ALT / AST:58/22, Alk Phos / T
   Bili:45/0.9, Differential-Neuts:70.5 %, Lymph:19.2 %, Mono:5.2 %,
   Eos:4.7 %, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Imaging: CTA as above.
   Microbiology: One set of cultures with coag. negative staph.
   Assessment and Plan
   41 year old male with a history of PFO repair, recurrent PEs, pulmonary
   HTN, dCHF POD #15 strangulated hernia repair slow vent wean with
   improving hypoxemia and volume overload.
   # Hypoexemia/SOB
   Major player is pulmonary hypertension in the context of chronic
   pulmonary emboli. Also past PFO. Patient also fluid overloaded.
   - Restart coumadin 3 mg daily (previous home daily dose)
 no extra
   doses given antibiotics
   - Heparin drip
   - NAC completed
   - Stop Lasix drip and convert to IV bolus 40 mg [**Hospital1 **] and evaluate
   - Check PM electrolytes; replete prn with goal to keep K > 4.5
   (aggressive KCl repletion given metabolic alkalosis); d/c lasix if Cr
   elevates
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   (currently day 7; 8 days total)
   - Follow up cultures
   - Continue high flow oxygen 40%
   # Pulmonary HTN
   Stable, severe. Contributors of PFO, chronic PE, hypercoagulability.
   - Continue sildenafil/heparin gtt/digoxin for pulmonary hypertension
   - Continue to monitor digoxin level
   # Genetic syndrome: Clear dysmorphic features and possibility of
   serious sequelae. Therefore send karyotype and on that basis determine
   if further outpatient workup is necessary.
   - Follow up how to obtain karyotype
   - Hypercoagulable and genetic work-up as outpatient
   # Chronic PEs
   Unclear etiology, likely secondary and also exacerbating pulmonary HTN.
   Patient may also be hypercoagulable and has no spleen and high platelet
   count. Plavix was previously added to regimen as he presumably had clot
   while on therapeutic dose of coumadin. Patient was supposed to have
   hypercoagulable work up in past, but this may be worth revisiting
   (again as an outpatient).  No evidence of new clots since his PFO
   closed. Currently patient remains on hep gtt (plavix stopped).
   - Continue anticoagulation with heparin gtt
   - Defer today on restarting home dose Coumadin (if restart, will first
   start with half dose given concurrent abx)
   - Do not lose track of possible need for plavix and coumadin
   # Fever/leukocytosis. Both are improving likely because of antibiotic
   therapy. WBC now 12, afebrile. Source likely pulmonary. No other
   findings suggestive of infection elsewhere.
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   (currently day 6; 8 days total)
   - Follow up culture data
   # Hypokalemia: Will need to be aggressively managed. K goal of 4.5.
   - Check PM electrolytes; replete prn with goal to keep K > 4.5
   (aggressive KCl repletion given metabolic alkalosis)
   # Anemia. Stable. Likely related to prolonged hospital stay and recent
   surgery with serosanguinous leak from wound. Now suppression likely
   given present infection. Given anticoagulation, consider GI bleed.
   - Guaiac stools again if suspicion of losses
   - Continue to trend Hct
   - Consider transfuse for goal Hct > 21 or unstable
   # Thrombocytosis: Stable; likely reactive [**2-4**] splenectomy.
   - Continue to trend
   # h/o strangulated bowel: s/p surgery.  Continue to monitor BMs.
   - Continue daily dressing changes
   - Now daily careful abdominal exams
   - Obtain surgical consultation if becomes unstable; otherwise needs
   keep outpatient surgical follow up
   # h/o a-flutter s/p cardioversion. Continue sotalol and digoxin as
   patient currently stable.  Question continued need for digoxin at this
   time given fact that he is in sinus.  Will ultimately need a
   cardiologist to follow up with re: sotalol.  Patient being
   anticoagulated for other reasons already.
   - Continue to monitor digoxin level
   - Stop/wean sotalol (D/w cardiology)
   # Diabetes: Continue ISS with change to outpatient regimen when closer
   to discharge.
   # GERD: Continue PPI.
   # Hyperlipidemia: Restart Zocor.
   .
   # FEN: No IVF, replete electrolytes aggressively as on digoxin, sotalol
   and lasix gtt, regular diabetic diet
   # Prophylaxis: hep gtt, famotidine, bowel regimen with miralax prn
   constipation
   # Access: Peripherals; Will need PICC line for access after resolution
   of fevers; try for this PM
   # Communication: Patient; Will get in touch with patient
s father
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2144-1-8**] 02:46 PM
   PICC Line - [**2144-1-11**] 10:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   # Atrial Flutter (addendum)
   We think atrial flutter was likely exacerbated in the post-operative
   state of fluid overload and possibly worsened thromboembolic pulmonary
   disease. He first had atrial flutter eight years ago which had been
   well controlled with metoprolol tartrate 25 mg [**Hospital1 **]. Digoxin and sotalol
   (80 mg) were started in [**Hospital3 **]. After hernioraphy. I spoke to
   Cardiology about sotalol given that we think this exacerbation and they
   recommended gradual reduction and continued telemetry, starting with a
   reduction from 80 to 40 mg [**Hospital1 **] today with observation. We will want to
   restart his beta-blocker, perhaps as metoprolol succinate for ease of
   dosing. Thus we might work toward, over one to two weeks, stopping
   sotalol and reinstating Toprol 50 mg QD.
   - Reduced sotalol to 40 mg [**Hospital1 **]
   - Will start metoprolol again depending on rate, with a goal of 50 mg
   QD
   ------ Protected Section Addendum Entered By:[**Name (NI) 10376**] [**Last Name (NamePattern1) 10340**], MD
   on:[**2144-1-14**] 13:04 ------

2144-01-15 07:24:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure/difficult to wean after
   hernioraphy at [**Hospital3 **].
   24 Hour Events:
   - Case management: Insurance will not pay for rehab., but has Mass.
   Health (?)
 D/w Case Management.
   - Per Cards: Decrease Sotalol to 40mg [**Hospital1 **] and monitor for A. fib, Can
   continue to wean if tolerates
   - Switched Lasix gtt to 40mg IV BID, I/O.....
   - Episode of HR in the 130s yesterday. Broke before we could get EKG.
   Looked like atrial flutter with slightly slower than typical rate (was
   around 130) given nodal agents. Increased sotalol to back to 80mg [**Hospital1 **].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-14**] 08:00 AM
   Vancomycin - [**2144-1-14**] 08:13 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2144-1-14**] 04:04 PM
   Furosemide (Lasix) - [**2144-1-14**] 06:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-15**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 56 (53 - 84) bpm
   BP: 120/64(81) {96/59(76) - 144/76(98)} mmHg
   RR: 25 (17 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 93.5 kg (admission): 97 kg
   Height: 66 Inch
             Total In:
                                                                  1,427 mL
                                                                    222 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                    967 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                  3,120 mL
                                                                    500 mL
   Urine:
                                                                  3,120 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,693 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented, no acute distress, on facemask. Dysmorphic in
   appearance, with malar hypoplasia, near microcephaly, straight hair,
   narrow facies with hypotelorism. Large low set ears. Conversational.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP at base of neck, no LAD
   Lungs: Crackles at both bases, no wheeze, rales, ronchi
   CV: Regular rate and rhythm, normal S1 +loud  S2 with normal split,
   systolic ejection murmur [**4-7**], no rubs, gallops
   Abdomen: soft, non-tender, slightly distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   976 K/uL
   8.5 g/dL
   134 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   18 mg/dL
   100 mEq/L
   136 mEq/L
   27.3 %
   11.2 K/uL
        [image002.jpg]
                             [**2144-1-10**]  04:50 PM
                             [**2144-1-10**]  04:55 PM
                             [**2144-1-11**]  05:00 AM
                             [**2144-1-11**]  04:35 PM
                             [**2144-1-12**]  04:21 AM
                             [**2144-1-13**]  03:50 AM
                             [**2144-1-13**]  06:37 PM
                             [**2144-1-14**]  04:01 AM
                             [**2144-1-14**]  05:55 PM
                             [**2144-1-15**]  02:49 AM
   WBC
   13.0
   11.9
   12.0
   10.5
   11.2
   Hct
   30.2
   27.9
   27.5
   27.6
   27.3
   Plt
   998
   922
   943
   954
   976
   Cr
   1.3
   1.3
   1.1
   1.2
   1.0
   0.9
   1.0
   0.9
   TCO2
   30
   29
   Glucose
   195
   129
   201
   116
   147
   146
   270
   134
   Other labs: PT / PTT / INR:15.1/62.2/1.3, ALT / AST:58/22, Alk Phos / T
   Bili:45/0.9, Differential-Neuts:70.5 %, Lymph:19.2 %, Mono:5.2 %,
   Eos:4.7 %, LDH:174 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Imaging: No CXR this a.m.
   Microbiology: No new findings.
   Assessment and Plan
   41 year old male with a history of PFO repair, recurrent PEs, pulmonary
   HTN, dCHF POD #15 strangulated hernia repair slow vent wean with
   improving hypoxemia and volume overload.
   # Hypoexemia/SOB
   Major player is pulmonary hypertension in the context of chronic
   pulmonary emboli. Also past PFO (contributor to pulmonary hypertension)
   and patient also fluid overloaded (by about 15 kg from estimated dry
   weight based on OSH notes). Patient producing more sputum now, so will
   need to follow. No suspicion of PNA at this time.
   - Treatment of chronic PE as below.
   - Continue Lasix IV 40 mg [**Hospital1 **] (need to dose with care given fragile
   hemodynamics
 preload dependent
 but has tolerated about
 1 L daily
   well
 is now down ~ 7 L from admission)
 check Lytes [**Hospital1 **] given Lasix
   - Follow CXRs
   - Check PM electrolytes; replete prn with goal to keep K > 4.5
   (aggressive KCl repletion given metabolic alkalosis); d/c lasix if Cr
   elevates
   - Empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP to stop
   tonight (currently day 8; 8 days total)
   - Follow up cultures
   - Continue low flow oxygen by mask (15L) with n.c. for meal times.
   # Chronic Pulmonary Emboli
   Had another PE on coumadin in the past, per OSH note. Therefore was on
   Plavix plus coumadin. Patient reports not tolerating Plavix. Apparently
   hypercoagulable work-up as outpatient, but may be fruitfully revisited.
   Thrombocytosis (s/p splenectomy) may be a contributor. Therefore:
   - ASA 81 mg and coumadin
   - Change from heparin gtt to Lovenox 90 mg [**Hospital1 **] for ease of dosing on
   floor
   - Coumadin 3 mg QD
   # Pulmonary HTN
   Stable, severe. Contributors of PFO, chronic PE, hypercoagulability.
   - Continue sildenafil and digoxin for pulmonary hypertension
   - Treatment of chronic PE as above
   - Stop monitoring digoxin level
 has been stable and can be checked
   again before discharge
   - Pumonary consult and to follow on floor
   # Genetic syndrome: Clear dysmorphic features and possibility of
   serious sequelae. Therefore send karyotype and on that basis determine
   if further outpatient workup is necessary.
   - Karyotype, syndromal, potential further hypercoagulable work-up as
   outpatient.
   # Fever/leukocytosis. Both are improving likely because of antibiotic
   therapy. WBC now 12, afebrile. Source likely pulmonary. No other
   findings suggestive of infection elsewhere.
   - Continue empiric coverage vanc/zosyn for HAP/nosocomial pneumonia/VAP
   (currently day 6; 8 days total)
   - Follow up culture data
   # Hypokalemia: Will need to be aggressively managed. K goal of 4.5.
   - Check PM electrolytes; replete prn with goal to keep K > 4.5
   (aggressive KCl repletion given metabolic alkalosis)
   # Anemia. Stable. Likely related to prolonged hospital stay and recent
   surgery with serosanguinous leak from wound. Now suppression likely
   given present infection. Given anticoagulation, consider GI bleed.
   - Guaiac stools again if suspicion of losses
   - Continue to trend Hct
   - Consider transfuse for goal Hct > 21 or unstable
   # Thrombocytosis: Stable; likely reactive [**2-4**] splenectomy.
   - Continue to trend
   # h/o strangulated bowel: s/p surgery.  Continue to monitor BMs.
   Incision does not look infected, but ooze likely secondary to
   anticoagulation.
   - Continue daily dressing changes
   - Now daily careful abdominal exams
   - Obtain surgical consultation if becomes unstable; otherwise needs
   keep outpatient surgical follow up
   # h/o a-flutter s/p cardioversion. Continue sotalol and digoxin as
   patient currently stable. Patient being anticoagulated for other
   reasons already. Digoxin level stable at around 0.6. Attempt to wean
   sotalol resulted in flutter again.
   - Monitor digoxin in a few days now
   - Continue sotalol and digoxin
 do not restart home metoprolol given
   good control.
   # Diabetes: Continue ISS with change to outpatient regimen when closer
   to discharge.
   # Hyperlipidemia: Restart Zocor.
   # FEN: No IVF, replete electrolytes aggressively as on digoxin, sotalol
   and lasix gtt, regular diabetic diet
   # Prophylaxis: Coumadin, Lovenox, bowel regimen with miralax prn
   constipation. Stopped pantoprazole today (not on home regimen)
   # Access: PICC line. A-line removed today.
   # Drains: Remove Foley today or leave to floor team.
   # Communication: Patient; Will get in touch with patient
s father
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2144-1-8**] 02:46 PM
   PICC Line - [**2144-1-11**] 10:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: